US07208526B2
Phenyl-propene-2-sulfonic acid amide is dissolved in dioxane followed by the addition of potassium carbonate and 2,4-dichlorobenzoyl chloride. The resulting solution is stirred in a sealed tube at 100° C. for 18.5 h, cooled to room temperature (RT) and partitioned between 1M HCl and ethyl acetate. The aqueous phase is separated and extracted with further portions of ethyl acetate. The organic fractions are combined, washed with brine, dried over MgSO4 and concentrated in vacuo. After flash column chromatography (dichloromethane) 1-phenyl-propene-2-sulfonic acid 2,4-dichlorobenzoylamide can be isolated as a colourless oil. Yield 55 mg (56%).

reactant | Phenyl-propene-2-sulfonic acid amide | C1(=CC=CC=C1)C=C(C)S(=O)(=O)N | C9H11NO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-phenyl-propene-2-sulfonic acid 2,4-dichlorobenzoylamide | ClC1=C(C(=O)NS(=O)(=O)C(=CC2=CC=CC=C2)C)C=CC(=C1)Cl | C16H13Cl2NO3S
